US08008327B2
A sealed tube was charged with 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester (1.5 g, 4.3 mmol), Pd2(dba)3 (0.4 g, 0.4 mmol), zinc cyanide (0.6 g, 5 mmol), dppf (0.3 g, 0.4 mmol) and zinc powder (0.2 g, 3 mmol) and DMF (20 mL). The reaction solution was degassed with argon for 15 minutes and warmed at 120° C. for 3 hours. The reaction was cooled to room temperature, diluted with saturated aqueous ammonium chloride (10 mL) and ethyl acetate (50 mL). The organic layer was separated and washed with brine (10 mL), dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography eluting with a gradient of 0-20% ethyl acetate in hexanes to afford 6-cyano-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester.

reactant | 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester | 4.3 mmol, 1.5 g | COC(=O)C=1C=2C=NN(C2C=C(C1)Br)C1=CC=C(C=C1)F | C15H10BrFN2O2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.4 mmol, 0.4 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc cyanide | 5 mmol, 0.6 g | [C-]#N.[Zn+2].[C-]#N
catalyst | dppf | 0.4 mmol, 0.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | zinc | 3 mmol, 0.2 g | [Zn] | Zn
product | 6-cyano-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=NN(C2C=C(C1)C#N)C1=CC=C(C=C1)F | C16H10FN3O2
